US07005526B2
4.00 g (17.1 mmol) 3-(2-Fluoro-4-trifluoromethyl-phenyl)-acrylamide, 2.60 g (21.3 mmol) 1,3-dichloroacetone and 40 ml toluene were kept at reflux temperature for 16 h with continuous removal of water by use of a water separator (Dean-Stark trap). After cooling to room temperature, two extractions with 100 ml water were performed, the organic phase was dried over sodium sulphate and the solvent removed in vacuo. Chromatography on silica gel (eluent: n-heptane/ethyl acetate 5:1) gave 1.20 g (23%) 4-chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole.

reactant | 3-(2-Fluoro-4-trifluoromethyl-phenyl)-acrylamide | 17.1 mmol, 4.00 g | FC1=C(C=CC(=C1)C(F)(F)F)C=CC(=O)N | C10H7F4NO
reactant | 1,3-dichloroacetone | 21.3 mmol, 2.60 g | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole | 1.20 g, 23% | ClCC=1N=C(OC1)C=CC1=C(C=C(C=C1)C(F)(F)F)F | C13H8ClF4NO
